US07622583B2
To a solution of N-(2-bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (250 mg, 0.50 mmol) in THF (3.0 mL) under nitrogen atmosphere at 0° C. was added isopropylmagnesium chloride (0.60 mL, 1.2 mmol, 2 M in THF). The mixture was then stirred for 30 min at 0° C. and 2-formyl-benzoic acid methyl ester (164 mg, 1.0 mmol) was added. The aqueous layer was stirred at room temperature overnight, quenched with saturated aqueous ammonium chloride, and followed by sodium bicarbonate to pH ˜6. The mixture was extracted with ethyl acetate, dried, and concentrated to provide 4-chloro-N-[5-chloro-2-(3-oxo-1,3-dihydro-isobenzofuran-1-yl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide. The crude residue was used directly in the next step.

reactant | N-(2-bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 0.50 mmol, 250 mg | BrC1=NC=C(C=C1N(S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)COC)Cl | C14H10BrCl2F3N2O3S
reactant | isopropylmagnesium chloride | 1.2 mmol, 2 M, 0.60 mL | C(C)(C)[Mg]Cl
reactant | 2-formyl-benzoic acid methyl ester | 1.0 mmol, 164 mg | COC(C1=C(C=CC=C1)C=O)=O | C9H8O3
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
product | 4-chloro-N-[5-chloro-2-(3-oxo-1,3-dihydro-isobenzofuran-1-yl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)Cl)C1OC(C2=CC=CC=C12)=O)C(F)(F)F | C22H15Cl2F3N2O5S
